US07449456B2
A 15 ml THF-methanol (1:1) solution of 750 mg of ethyl 1-(4-{[5-(aminocarbonyl)-4-(benzylamino)pyrimidin-2-yl]amino}phenyl)piperidine-4-carboxylate was mixed with 1 M sodium hydroxide aqueous solution, followed by stirring under heating at 60° C. for 1 hour. The reaction mixture was cooled down to room temperature and mixed with 1 M sodium hydroxide aqueous solution, and the precipitated solid was collected by filtration and washed with water and methanol. By recrystallizing the resulting solid from a THF-methanol mixed solvent, 361 mg of 1-(4-{[5-(aminocarbonyl)-4-(benzylamino)pyrimidin-2-yl]amino}phenyl)piperidine-4-carboxylic acid was obtained as a colorless solid.

reactant | ethyl 1-(4-{[5-(aminocarbonyl)-4-(benzylamino)pyrimidin-2-yl]amino}phenyl)piperidine-4-carboxylate | 750 mg | NC(=O)C=1C(=NC(=NC1)NC1=CC=C(C=C1)N1CCC(CC1)C(=O)OCC)NCC1=CC=CC=C1 | C26H30N6O3
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | THF methanol | 15 ml | C1CCOC1.CO
product | 1-(4-{[5-(aminocarbonyl)-4-(benzylamino)pyrimidin-2-yl]amino}phenyl)piperidine-4-carboxylic acid | 361 mg | NC(=O)C=1C(=NC(=NC1)NC1=CC=C(C=C1)N1CCC(CC1)C(=O)O)NCC1=CC=CC=C1 | C24H26N6O3
